US07396847B2
Methanesulfonic acid 3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl ester
[3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-yl]-methanol (10.7 g, 40.6 mmol) was added to anhydrous dichloromethane (200 ml) followed by addition of triethylamine (7.9 ml, 56.9 mmol). The solution was cooled to 0° C. followed by dropwise addition of methane sulfonyl chloride (3.8 ml, 48.7 mmol). The reaction was stirred for 2 hours at 0° C. and then aqueous sodium bicarbonate (100 ml) was added. After further extraction with dichloromethane (2×100 ml), the organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give the desired product (9 g).

reactant | [3-(5-Bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-yl]-methanol | 40.6 mmol, 10.7 g | BrC1=CC=C(S1)C1=NOC(C1)CO | C8H8BrNO2S
reactant | triethylamine | 56.9 mmol, 7.9 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 48.7 mmol, 3.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 3-(5-bromo-thien-2-yl)-4,5-dihydro-isoxazol-5-ylmethyl ester | 9 g | BrC1=CC=C(S1)C1=NOC(C1)COS(=O)(=O)C | C9H10BrNO4S2
